US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(3-fluorophenyl-oxy)-pyrazine, CJS 454
Using Method EE with 2-chloro-6-(3-fluorophenyloxy)-pyrazine (200 mg, 0.89 mmol) and 3,4,5-trimethoxyaniline (196 mg, 1.07 mmol), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (200 mg). Yield: 61%. 1H NMR (250 MHz, DMSO-d6) δ 3.44 (s, 6H, [CH3O]3+5), 3.55 (s, 3H, [CH3O]4), 6.77 (s, 2H, Harom 2′+6′), 7.02-7.09 (m, 2H, Harom 4+6), 7.16 (d, 1H, Harom 2, JF=8.8 Hz), 7.43 (q, 1H, Harom 5, J=8.5 Hz), 7.78 (s, 1H, HPz 5), 7.98 (s, 1H, HPz 3), 9.61 (s, 1H, NH). m/z: 372.1 [(M+H)+, calcd for C19H18FN3O4 371.1].

reactant | 2-chloro-6-(3-fluorophenyloxy)-pyrazine | 0.89 mmol, 200 mg | ClC1=NC(=CN=C1)OC1=CC(=CC=C1)F | C10H6ClFN2O
reactant | 3,4,5-trimethoxyaniline | 1.07 mmol, 196 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(3-fluorophenyl-oxy)-pyrazine | Yield: 61% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC(=CC=C1)F | C19H18FN3O4
